US20010047105A1
Following the procedure described for Preparation 8, Step B, 5-[4-(4-fluoro-phenyl)-3-oxo-butyl]-pyrrolidin-2-one (2.64 g, mmol) was reduced with NaBH4 (400 mg, mmol) at room temperature for 1 h. Additional NaBH4 (150 mg) was added and the reaction was stirred for 20 h. Purification by medium pressure chromatography using a solvent gradient (CH2Cl2 to 2% MeOH in CH2Cl2 to 4% MeOH in CH2Cl2) provided 5-[4-(4-fluoro-phenyl)-3-hydroxy-butyl]-pyrrolidin-2-one (2.01 g). 1H NMR (CDCl3) δ7.14 (m, 2H), 6.98 (m, 2H), 6.78 (m, 1H), 3.76 (m, 1H), 3.65 (m, 1H), 2.76 (m, 1H), 2.64 (m, 1H), 2.32-2.18 (m, 4H), 1.72-1.47 (m, 5H).

reactant | 5-[4-(4-fluoro-phenyl)-3-oxo-butyl]-pyrrolidin-2-one | 2.64 g | FC1=CC=C(C=C1)CC(CCC1CCC(N1)=O)=O | C14H16FNO2
reactant | NaBH4 | 400 mg | [BH4-].[Na+]
reactant | NaBH4 | 150 mg | [BH4-].[Na+]
product | 5-[4-(4-fluoro-phenyl)-3-hydroxy-butyl]-pyrrolidin-2-one | 2.01 g | FC1=CC=C(C=C1)CC(CCC1CCC(N1)=O)O | C14H18FNO2
